US06335344B1
A mixture of 4-methylthio-6H-imidazo[4,5-g]quinazoline (0.0455 g, 0.210 mmol), prepared as described in Leonard, N. J.; Morrice, A. G.; Sprecker, M. A., J. Org. Chem., 1975, 40 (3), 356-363, 3-ethynylaniline (0.0672 g, 0.574 mmol) and pyridine hydrochloride (0.0274 g, 0.237 mmol) in t-butanol (5 mL) was heated to reflux for 6 hours then cooled to room temperature. Precipitate was collected and washed with t-butanol to give 4-(3-ethynylanilino)-imidazo[4,5-g]-quinazoline hydrochloride as a yellow solid: 0.0349 g (58%); 1H NMR (DMSO-d6) δ4.34 (1H, s), 7.48 (1H, m), 7.53 (1H, m), 7.82 (1H, m), 7.98 (1H, s), 8.13 (1H, s), 8.81 (1H, s), 8.99 (1H, s), 9.24 (1H, s), 11.49 (1H, br s ); m/e 286 (M+1).

reactant | 4-methylthio-6H-imidazo[4,5-g]quinazoline | 0.210 mmol, 0.0455 g | CSC1=C2C(C=C3C=NCN=C13)=NC=N2 | C10H8N4S
reactant | 3-ethynylaniline | 0.574 mmol, 0.0672 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | pyridine hydrochloride | 0.237 mmol, 0.0274 g | Cl.N1=CC=CC=C1
solvent | t-butanol | 5 mL | C(C)(C)(C)O | C4H10O
product | 4-(3-ethynylanilino)-imidazo[4,5-g]-quinazoline hydrochloride | Cl.C(#C)C=1C=C(NC2C=3C(=CC=4C=NC=NC24)N=CN3)C=CC1 | InChI=1S/C17H11N5.ClH/c1-2-11-4-3-5-13(6-11)22-17-15-12(8-18-9-20-15)7-14-16(17)21-10-19-14;/h1,3-10,17,22H;1H
